2192-12-15 12:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2192-12-14**] 01:28 PM
   [**12-14**]
   - Hct 34.5 --> 27.9 --> 1u PRBC's --> 34.5
   - GI bleed study --> f/u
   - High bp's to 180's-190's overnight. Given 20mg IV Lasix. Called at MN
   to reassess. BP's still in 180's. Pt had been given 1.5L NS in the ED,
   got blood products, and was getting Golytely prep, and only -100cc's
   negative at MN. So, if 3am and still HTN, wrote for 20mg IV Lasix x1.
   - Getting prepped for c-scope in the am, called by nurse who said she
   is not clearing well, had to be manually disimpacted and nowhere near
   clear. Continuing prep and need to contact GI in am.
   Allergies:
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-12-14**] 09:53 PM
   Pantoprazole (Protonix) - [**2192-12-15**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-15**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96.1
   HR: 89 (54 - 89) bpm
   BP: 186/62(95) {140/49(74) - 195/88(112)} mmHg
   RR: 18 (8 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,416 mL
                                                                    750 mL
   PO:
             TF:
   IVF:
                                                                     66 mL
                                                                     10 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    430 mL
                                                                    326 mL
   Urine:
                                                                    430 mL
                                                                    326 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,986 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin cachectic elderly woman, sleeping, awoken and
   appropriate, hard of hearing, no distress
   Cardiovascular: S1 S2 clear, systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Fair air movement
   Abdominal: Somewhat distended but not tight or painful to palpation
   Extremities: No BLE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   326 K/uL
   11.2 g/dL
   92 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.3 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   33.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2192-12-14**]  02:57 PM
                            [**2192-12-14**]  10:03 PM
                            [**2192-12-15**]  04:05 AM
   WBC
   9.7
   Hct
   27.9
   34.5
   33.1
   Plt
   326
   Cr
   0.8
   Glucose
   92
   Other labs: PT / PTT / INR:12.3/28.8/1.0, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Assessment and Plan:
   [**Age over 90 212**]F with CAD, diastolic CHF, history of LGIB due to sigmoid ulcer and
   telangectasia, presenting with BRBPR.
   1. BRBPR--GI plans to take to colonoscopy today but pt has not cleared
   with Golytely. Continue aggressive prep PO today as pt refuses NGT.
   Touch base with GI and make plan for pt.  Keep active T&S, and has
   units crossmatched. Consider Lasix with transfusions. Has 2 large bore
   PIV's. Hold ASA and Plavix. Avoid hypotension, keep bp's 140-160.
   Deferring surgical consult as pt doesn't want surgery, if no other
   resort, would make pt [**Name (NI) 617**].
   2. HTN--PT seen to have rising bp's through yesterday to 180-190's.
   Given 20mg IV Lasix yesterday and reasonable to diuresis gently some
   more, as pt has gotten IVF's and is net positive since coming here. Has
   h/o CHF so need to keep her negative or even. Assess later and give
   Lasix if necessary.
   3. CAD.  s/p multiple BMS placements in the past.  Maintained on ASA
   and plavix.
   - Hold ASA and plavix for now, as no new or drug eluting stents in
   place.  Consider platelet transfusion.
   - Continue statin.
   4. Afib.  Paroxysmal, currently in sinus.
   - Continue amiodarone.
   - No coumadin.
   5. Diastolic CHF.  Preserved EF, some PA HTN.
   - Watch respiratory status with transfusions, IV lasix prn.
   - Hold PO lasix for now, will give IV if/when needed.
   - Not on BB or anti-HTNs.
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: pneumoboots, PPI IV
   Access: peripherals (refused central access)
   Code:  DNR/DNI
   Communication: Daughter [**Name (NI) 3472**] [**Telephone/Fax (1) 10832**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2192-12-14**] 01:32 PM
   20 Gauge - [**2192-12-14**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Overnight she was prepped for colonoscopy, though appears to still need
   manual disimpaction.   Hct stable after 1U PRBC.
   VS notable for hypertension.  Exam notable for soft abdomen; her mental
   status is poor  -  awake, and alert, but not responding to questions
   reportedly baseline.
   Labs notable for Hct as above, Cr 0.8
   Will need to discuss with GI timing of colonoscopy, need for reprep.
   If Hct and hemodynamics remain stable, would consider transfer to
   floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2192-12-15**] 01:16 PM ------

2192-12-16 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - GI: not adequately prepped, [**Last Name (un) **] delayed until tomorrow.
   - hypertensive through the day.  Not on antihypertensives here.  Spoke
   with daughter.  Doesn't think she's in pain.  Gave IV lopressory once,
   only worked temporarily.  Gave PO lopressor with mild improvement.
   - Daughter at bedside, very upset that she was not aware that pt not
   stooling clear until this morning.  Says she will stay until stooling
   clear tonight, and really wants [**Last Name (un) **] to happen in AM.
   - At midnight, loose stools but not completely clear.
   - Pt also received 20 mg IV Lasix
   This morning, stools continue loose but not clear. Daughter talked to
   nursing last night about not wanting colonoscopy, worried that this is
   too aggressive.
   Allergies:
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-12-15**] 08:45 AM
   Furosemide (Lasix) - [**2192-12-15**] 12:30 PM
   Metoprolol - [**2192-12-15**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-16**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96.1
   HR: 65 (59 - 89) bpm
   BP: 157/50(77) {155/44(72) - 215/78(104)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.2 kg (admission): 55 kg
                  Total In:
                                                                  2,990 mL
                  PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,806 mL
                                                                    475 mL
   Urine:
                                                                  1,806 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,184 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen:  Cachectic elderly lady in NAD
   HEENT: MMM, extremely hard of hearing
   CV: RRR, 2/6 systolic murmur
   Lungs: CTA b/l
   [**Last Name (un) **]: NABS, soft, ND, NT
   Extrem: no edema
   Skin: severely ulcerated buttocks bilaterally, with blistering. One
   appears as though it may be stage III
   Labs / Radiology
   326 K/uL
   11.2 g/dL
   92 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.3 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   35.9 %
   9.7 K/uL
        [image002.jpg]
                            [**2192-12-14**]  02:57 PM
                            [**2192-12-14**]  10:03 PM
                            [**2192-12-15**]  04:05 AM
                            [**2192-12-15**]  01:57 PM
   WBC
   9.7
   Hct
   27.9
   34.5
   33.1
   35.9
   Plt
   326
   Cr
   0.8
   Glucose
   92
   Other labs: PT / PTT / INR:12.3/28.8/1.0, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Assessment and Plan:
   96F with CAD, diastolic CHF, history of LGIB due to sigmoid ulcer and
   telangectasia, presenting with BRBPR. Pt
s HCT has been stable, no
   evidence of active bleeding.
   1. BRBPR
GI deferring on colonoscopy given that patient still not
   clear, also no current signs of active bleeding. Daughter is amenable
   to this plan. Deferring surgical consult as pt doesn't want surgery.
   Patient could easily rebleed, but no signs of active bleeding. Does not
   want surgery or other invasive measures. Will go home on aspirin, which
   she has not been getting in hospital, but will hold plavix x1 week.
   Daughter will monitor for signs of bleeding.
   -Hold plavix for one week, follow up with PCP
   2. HTN--PT seen to have rising bp's through yesterday to 200s. Given
   20mg IV Lasix yesterday and reasonable to diuresis gently some more, as
   pt has gotten IVF's and is net positive since coming here (LOS +2.5L).
   Has h/o CHF so need to keep her negative or even. Will give Lasix today
   with a goal of negative today to improve overall LOS fluid balance.
   Also given lopressor IV & PO with some response. Per daughter, patient
   is not hypertensive at home.
   -Recheck blood pressures at home
   -Will follow up with PCP [**Name Initial (PRE) 10849**] 1 week, start antihypertensives if
   continues hypertensive.
   3. Skin breakdown: patient appears to have significant skin breakdown
   on buttocks after receiving prep. Apparently had some ulceration prior
   to prep (stage III on arrival).
   -Daughter requesting help with wound care, [**Name Initial (PRE) **] services at home/
   4. CAD.  s/p multiple BMS placements in the past.  Maintained on ASA
   and plavix.
   - Hold plavix given that no new or drug eluting stents in place. Hold
   x1 week.
   - Continue statin.
   -Restart ASA at home
   5. Afib.  Paroxysmal, currently in sinus.
   - Continue amiodarone.
   - No coumadin.
   6. Diastolic CHF.  Preserved EF, some PA HTN.
   - restart home dose of lasix
   - Not on BB or anti-HTNs.
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: pneumoboots, PPI IV
   Access: peripherals (refused central access)
   Code:  DNR/DNI
   Communication: Daughter [**Name (NI) 3472**] [**Telephone/Fax (1) 10832**]
   [**Name2 (NI) **]osition: home with Daughter today, [**Name2 (NI) **] services for wound care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2192-12-14**] 01:32 PM
   20 Gauge - [**2192-12-14**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: